reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]1([H:11])[O:3][C:4]([N-:5][H:13])=[C+:6][N:7]1[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],59.865852860383505
[C:1]([C:2]1([C:5](=[O:6])[H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:5][O:6][H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],78.9632873082028
[O:1]([C:2][C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],30.432642929451404
[C:1]([C:2]([C:3]#[C:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3](=[C:4]([H:11])[H:12])[C:5]1=[C:6])([H:7])([H:8])[H:9],100.627853669787
[C:1]([C:2](=[C:4]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[O:3]([N+:6]#[C-:5])[H:11]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[N:6])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],25.54159309386219
[C:1]([C@@:2]1([H:11])[O:3][C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C@:6]1([O:7][H:17])[H:16])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][C:4]([C:5]([H:14])([H:15])[H:17])([H:12])[H:13])([C:6](=[O:7])[H:16])[H:11])([H:8])([H:9])[H:10],81.72297761758091
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([H:11])[H:12])([H:8])[H:10].[C:3](\[C:4]([H:14])([H:15])[H:16])(=[N:5]\[H:17])[H:13].[C:6](=[O:7])([H:9])[H:18],91.6298968543058
[C:1]([C:2](/[C:3](=[N:4]\[O:5][H:12])[C:6]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([H:10])([H:11])[H:15])([H:7])([H:8])[H:9].[C:3](=[N:4][O:5][H:12])=[C:6]([H:13])[H:14],112.96388715846099
[C:1]([O:5]/[C:4](=[C:2](/[O:3][H:11])[C:6](=[O:7])[H:13])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10],68.64754406799858
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([N+:7]#[C-:6])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],58.537701907759
[C:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](\[O:4][H:11])[C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],72.68696059759719
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[O+:1](=[C:2]([N:3]([C-:4]([H:10])[H:11])[H:9])[H:8])[C:7](=[C:6]=[C:5]([H:12])[H:13])[H:14],95.57508722720699
[C:1]([O:2][H:13])([H:6])([H:7])[H:8].[C:3]([C:4](=[O:5])[H:12])([H:9])([H:10])[H:11]>>[C:1]([O:2][C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],77.08237946687079
[C:1]([N:2]([C:3](=[O:4])[O:5][C:6]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C-:1]([N+:2]([C:3](=[O:4])[O:5][C:6]([H:11])([H:12])[H:13])([H:8])[H:10])([H:7])[H:9],93.72478896776121
[C:1]([O:2][H:11])([H:7])([H:8])[H:9].[C:3](=[C:4]([H:12])[H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:10]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],48.9216677142879
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:3]([C@:4]1([H:13])[C:5]([H:9])([H:14])[O:6]1)([H:11])[H:12])[H:10])([H:7])[H:8],98.39017868948851
[C:1]([O:2]/[C:3](=[N:4]\[H:11])[N:5]([C:6](=[O:7])[H:13])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][H:12])([H:8])([H:9])[H:10].[C:3](=[N:4][H:11])=[N:5][C:6](=[O:7])[H:13],56.9105282483214
[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C:6]#[N:7])[H:11])([H:8])[H:9].[C:3](=[C:4]([O:5][H:10])[H:14])([H:12])[H:13],61.465449791789
[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2](/[C:3](=[C:4](/[O:5][H:12])[C:6]([O:7][H:15])([H:13])[H:14])[H:11])([H:9])[H:10])[H:8],67.2594182716604
[C:1]([C:2]([C:3]#[C:4][C:5]([H:11])([H:12])[H:13])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3][C@:4]1([C:5]([H:11])([H:12])[H:13])[H:6],97.4519077312926
[C:1]([C:2]([H:11])([H:12])[H:18])([H:8])([H:9])[H:10].[C:3]1([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]1([O:6][C:7]([H:19])([H:20])[H:21])[H:17]>>[C:1]([C:2]([C:3]([C:4]([C:5]([O:6][C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],92.60867393327919
[C:1](=[C:2]([H:11])[H:12])([H:8])[H:9].[C:3](=[N:4][H:15])([H:13])[H:14].[C:5](=[O:6])([C:7]([H:16])([H:17])[H:18])[H:10]>>[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],34.83586345176468
[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4](=[O:5])[C:6]([O:7][H:17])([H:15])[H:16])([H:12])[H:13])([H:8])([H:9])[H:10].[H:11][H:14],88.4089174660981
